US06114390
a) 4-(Benzoylamino)benzeneacetic Acid
Prepared analogously to Example 4a) from benzoylchloride and 4-aminobenzene acetic acid in a yield of 52% of theory. Colourless crystals, Mp. 207-208° C. (ethanol).

reactant | benzoylchloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-aminobenzene acetic acid | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
solvent | ethanol | C(C)O | C2H6O
product | 4-(Benzoylamino)benzeneacetic Acid | yield of 52% | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)CC(=O)O | C15H13NO3
